US07838543B2
Step 1. N,N,N′-Trimethyl-N′-(5-nitro-benzooxazol-2-yl)-ethane-1,2-diamine
The title compound was prepared according to the procedure described in General Method A using 2-methylsulfanyl-5-nitro-benzooxazole (5.0 g, 23.8 mmol) and N,N,N′-Trimethyl-ethane-1,2-diamine (15.4 mL, 118.9 mmol) at 140° C. The product was purified by silica gel flash column chromatography (330 g column, eluting with 5% 2N NH3 in MeOH/CH2Cl2) to yield the desired product (2.8 g, 44%). mass spectrum (m/e): 265.3 (M+1).

reactant | 2-methylsulfanyl-5-nitro-benzooxazole | 23.8 mmol, 5.0 g | CSC=1OC2=C(N1)C=C(C=C2)[N+](=O)[O-] | C8H6N2O3S
reactant | N,N,N′-Trimethyl-ethane-1,2-diamine | 118.9 mmol, 15.4 mL | CN(CCNC)C | C5H14N2
product | N,N,N′-Trimethyl-N′-(5-nitro-benzooxazol-2-yl)-ethane-1,2-diamine | 2.8 g, 44% | CN(CCN(C=1OC2=C(N1)C=C(C=C2)[N+](=O)[O-])C)C | C12H16N4O3
